US09387202B2
A mixture of ethyl 4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate (60 g, 0.196 mol) and LiOH (30 g, 0.6 mol) in EtOH (200 mL) and water (100 mL) was stirred at RT for 16 h. The mixture was concentrated. The residue was diluted with water (300 mL) and was washed with EtOAc (100 mL). The aqueous layer was acidified to pH<2 with conc HCl and was extracted with EtOAc (3×300 mL). The extracts were washed with brine, dried over Na2SO4 and concentrated. Petroleum ether (PE) (200 mL) was added. The resultant precipitate was collected by filtration, washed with PE and dried to afford 4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid. (43 g, 78.9% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.95 (d, J=8.0 Hz, 1 H), 7.48 (m, 2 H), 7.35 (m, 2 H), 6.58 (d, J=7.6 Hz, 1 H), 4.28 (q, J=7.2 Hz, 2 H), 1.32 (t, J=7.2 Hz, 3 H).

reactant | ethyl 4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.196 mol, 60 g | C(C)OC1=C(C(N(C=C1)C1=CC=C(C=C1)F)=O)C(=O)OCC | C16H16FNO4
reactant | LiOH | 0.6 mol, 30 g | [Li+].[OH-]
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 78.9% yield | C(C)OC1=C(C(N(C=C1)C1=CC=C(C=C1)F)=O)C(=O)O | C14H12FNO4
